US08227462B2
[4-(2-Amino-4-methyl-thiazol-5-yl)-pyrimidin-2-yl]-diethyl-amine
Powdered sodium hydroxide (150 mg) is added to a solution of N′-[5-(3-dimethylamino-acryloyl)-4-methyl-thiazol-2-yl]-N,N-dimethyl-formamidine (0.5 g, prepared as described by S. Wang et al J. Med. Chem. 2004, 47, 1662-1675.) and 1,1-diethylguanidine (259 mg) in 2-methoxyethanol (1.9 ml) and the mixture heated at 125° C. for 1 hour with stirring. The reaction mixture is concentrated under vacuum and purified by normal phase chromatography, eluent; DCM/EtOAc, to give the title compound. ESI-MS: M+H 264 and M−H 262.

reactant | sodium hydroxide | 150 mg | [OH-].[Na+]
reactant | N′-[5-(3-dimethylamino-acryloyl)-4-methyl-thiazol-2-yl]-N,N-dimethyl-formamidine | 0.5 g | CN(C=CC(=O)C1=C(N=C(S1)N=CN(C)C)C)C | C12H18N4OS
reactant | 1,1-diethylguanidine | 259 mg | C(C)N(C(=N)N)CC | C5H13N3
solvent | 2-methoxyethanol | 1.9 ml | COCCO | C3H8O2
product | [4-(2-Amino-4-methyl-thiazol-5-yl)-pyrimidin-2-yl]-diethyl-amine | NC=1SC(=C(N1)C)C1=NC(=NC=C1)N(CC)CC | C12H17N5S
